US07612212B2
(4-Bromo-phenyl)-tert-butoxycarbonylamino-acetic acid benzyl ester (1.5 g, 3.6 mmol), methyl vinyl sulfone (406 μL, 4.6 mmol), palladium(II) acetate (80 mg, 10 mol %), tri-o-tolylphosphine (217 mg, 20 mol %) and triethylamine (2.0 ml, 14.3 mmol) were combined in acetonitrile (18 mL), degassed and refluxed for 8 hours. Additional palladium(II) acetate (80 mg, 10 mol %) and tri-o-tolylphosphine (217 mg, 20 mol %) were added and refluxing continued overnight. The reaction was cooled, solvent removed in vacuo and the residue was purified by chromatography over silica gel gradient eluted from 20 to 90% v/v ethyl acetate in hexane to afford tert-butoxycarbonylamino-[4-((E)-2-methanesulfonyl-vinyl)-phenyl]-acetic acid benzyl ester (1.2 g, 75%).

reactant | (4-Bromo-phenyl)-tert-butoxycarbonylamino-acetic acid benzyl ester | 3.6 mmol, 1.5 g | C(C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)Br)=O | C20H22BrNO4
reactant | methyl vinyl sulfone | 4.6 mmol, 406 μL | C(=C)S(=O)(=O)C | C3H6O2S
reactant | tri-o-tolylphosphine | 217 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 80 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butoxycarbonylamino-[4-((E)-2-methanesulfonyl-vinyl)-phenyl]-acetic acid benzyl ester | 1.2 g, 75% | C(C1=CC=CC=C1)OC(C(C1=CC=C(C=C1)\C=C\S(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C23H27NO6S
